US04587256
755 mg of (±)-6-fluoro-8-nitro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione were hydrogenated at room temperature and normal pressure in the presence of 50 mg of platinum oxide in 50 ml of ethanol. An additional 100 mg of platinum oxide were added after 30 minutes. After 2.5 hours under hydrogen, some chloroform was added, the catalyst was filtered, the filtrate was concentrated and the residue was chromatographed on silica gel 60 with chloroform/methanol (19:1). (±)-6-Fluoro-8-amino-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione was obtained in the form of a yellowish foam. The IR spectrum showed amine bands at 3383, 3202 and 2766 cm-1, in the mass spectrum the molecular ion appeared as a basic peak (m/e=268).

reactant | (±)-6-fluoro-8-nitro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione | 755 mg | FC=1C=C(C2=C(C1)C1(C(NC(S1)=O)=O)CCO2)[N+](=O)[O-] | C11H7FN2O5S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | platinum oxide | 50 mg | [Pt]=O
catalyst | platinum oxide | 100 mg | [Pt]=O
product | (±)-6-Fluoro-8-amino-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione | FC=1C=C(C2=C(C1)C1(C(NC(S1)=O)=O)CCO2)N | C11H9FN2O3S
